US04170583
The procedure of comparative Example 1 was followed in the reaction of 162 grams butadiene, 336 grams citraconic acid anhydride, 20 grams paratoluenethiol, 15.9 grams lauroylperoxide and 2,500 milliliters cyclohexanon. There was obtained 240 grams butadiene-citraconic anhydride copolymer, which had an intrinsic viscosity of 0.19 and paratoluylthio in an amount of 6.7 percent of the total polymer. 17.7 grams polymer, 7.1 grams lithium hydroxide 1H2O solution and 400 grams water were charged to a 500-milliliter separable flask and heated with stirring for 2 hours. The whole, after being cooled, was further added with 70 milliliters of 1 mol/liter magnesium acetate solution and stirred for 1 hour. A portion of the resulting liquid was sampled and heated, whereupon it turned into a jelly-like solid. This solid returned to its initial liquid state when cooled back. The composition is referred to as E-5. 30 grams of this composition were kneaded and admixed with 100 grams of 25 percent solution of polyvinylalcohol having a saponification value of 85 percent and a polymerization degree of about 500. The admixture was disposed at room temperature for 7 days, whereupon both were found satisfactorily mixed and dispersed. The composition turned out to be somewhat hard jelly-like solid when it was heated, and returned to its initial liquid state when cooled.

reactant | butadiene | 162 grams | C=CC=C | C4H6
reactant | citraconic acid anhydride | 336 grams | C1(\C(\C)=C/C(=O)O1)=O | C5H4O3
reactant | paratoluenethiol | 20 grams | C1(=CC=C(C=C1)S)C | C7H8S
catalyst | lauroylperoxide | 15.9 grams | C(CCCCCCCCCCC)(=O)OOC(CCCCCCCCCCC)=O | C24H46O4
solvent | cyclohexanon | 2,500 milliliters | C1(CCCCC1)=O | C6H10O
product | butadiene citraconic anhydride | 240 grams | C=CC=C.C1(\C(\C)=C/C(=O)O1)=O | InChI=1S/C5H4O3.C4H6/c1-3-2-4(6)8-5(3)7;1-3-4-2/h2H,1H3;3-4H,1-2H2
